US04242344
A 2.67 g (0.01 mol) sample of 3-chloro-2-(2-oxo-1-propanamino)pyrazine is dissolved in 10 ml of trifluoroacetic anhydride under nitrogen and after the exothermic reaction subsides, the mixture is concentrated under vacuum. The residue is partitioned between chloroform and aqueous sodium bicarbonate, and the chloroform extract dried over sodium sulfate, filtered and concentrated under vacuum to give the solid 8-chloro-3-methylimidazo[1,2-a]pyrazine.

reactant | 3-chloro-2-(2-oxo-1-propanamino)pyrazine | CC(=O)CNC1=NC=CN=C1Cl | C7H8ClN3O
solvent | trifluoroacetic anhydride | 10 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 8-chloro-3-methylimidazo[1,2-a]pyrazine | ClC=1C=2N(C=CN1)C(=CN2)C | C7H6ClN3
